US06743926B2
(E)-5-[3-(4-Fluorophenyl)-1-isopropyl-1H-indol-2-yl]-3-oxopent-4-enoic Acid Methyl Ester
In a 100 ml three-necked, round-bottomed flask, equipped with a magnetic stirrer, thermometer, reflux condenser and nitrogen delivery line, 2.17 g of crude 3,5-bis-ethoxycarbonyloxy-5-[3-(4-fluorophenyl)-1-isopropyl-1H-indol-2-yl]-pent-2-enoic acid methyl ester are dissolved in 50 ml of DMF, 1.0 g of pyridinium p-toluenesulfonate is added and stirring is carried out for 4 hours at 80° C. The reaction mixture is then cooled, poured into 150 ml of saturated sodium chloride solution and extracted four times with 50 ml of ethyl acetate. The combined organic phases are washed six times with 50 ml of water, dried over magnesium sulfate, filtered and concentrated by evaporation. The crude product (brownish-orange resin) is purified by means of flash chromatography (hexane/ethyl acetate=10:1). An orange resin is obtained which, according to NMR, is the product in a keto-enol equilibrium of approximately 3:1.

reactant | 3,5-bis-ethoxycarbonyloxy-5-[3-(4-fluorophenyl)-1-isopropyl-1H-indol-2-yl]-pent-2-enoic acid methyl ester | 2.17 g | COC(C=C(CC(C=1N(C2=CC=CC=C2C1C1=CC=C(C=C1)F)C(C)C)OC(=O)OCC)OC(=O)OCC)=O | C29H32FNO8
reactant | pyridinium p-toluenesulfonate | 1.0 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | sodium chloride | 150 ml | [Cl-].[Na+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | (E)-5-[3-(4-Fluorophenyl)-1-isopropyl-1H-indol-2-yl]-3-oxopent-4-enoic Acid Methyl Ester | COC(CC(\C=C\C=1N(C2=CC=CC=C2C1C1=CC=C(C=C1)F)C(C)C)=O)=O | C23H22FNO3
